* Extracted by KLayout with SG13G2 LVS runset on : 12/03/2026 04:06

.SUBCKT nand
M$1 \$1 \$5 \$2 \$1 sg13_lv_nmos L=0.15u W=1.5u AS=0.51p AD=0.285p PS=3.68u
+ PD=1.88u
M$2 \$2 \$6 \$3 \$1 sg13_lv_nmos L=0.15u W=1.5u AS=0.285p AD=0.51p PS=1.88u
+ PD=3.68u
M$3 \$4 \$5 \$3 \$4 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.285p PS=3.68u
+ PD=1.88u
M$4 \$3 \$6 \$4 \$4 sg13_lv_pmos L=0.15u W=1.5u AS=0.285p AD=0.51p PS=1.88u
+ PD=3.68u
.ENDS nand
